US04295848
Preparation of 4-acetylamino-N-(β-mesylaminoethyl)-aniline
0.2 mol (25.2 g) of sodium sulphite is added, at ambient temperature, to a solution of 0.1 mol (32.7 g) of N-(β-mesylaminoethyl)-para-phenylenediamine sulphate in 150 ml of water, and 0.13 mol (13.17 g) of acetic anhydride is added gradually, whilst stirring. When the addition is complete, stirring is continued for one hour and the expected acetylated derivative which has precipitated in crystalline form is then filtered off. The product is drained, washed with water and dried in vacuo. After recrystallisation from alcohol and drying in vacuo, it melts at 130° C.

reactant | sodium sulphite | 0.2 mol, 25.2 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | N-(β-mesylaminoethyl)-para-phenylenediamine sulphate | 0.1 mol, 32.7 g | S(=O)(=O)(O)O.S(=O)(=O)(C)NCCNC1=CC=C(C=C1)N
reactant | acetic anhydride | 0.13 mol, 13.17 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 150 ml | O | H2O
product | 4-acetylamino-N-(β-mesylaminoethyl)-aniline | C(C)(=O)NC1=CC=C(NCCNS(=O)(=O)C)C=C1 | C11H17N3O3S
